US07772238B2
To a solution of 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.52 g, 10.7 mmol) and triethylamine (3.00 mL, 21.5 mmol) in anhydrous THF (80 mL) at 0° C. was added methanesulfonyl chloride (1.24 mL, 16.0 mmol). The resulting mixture was allowed to stir at 0° C. for 30 min, diluted with EtOAc (400 mL), washed with saturated NaHCO3, water and brine. The organic layer was dried over Na2SO4. After filtration, the filtrate was concentrated and the residue was dissolved in anhydrous DMF (60 mL). After sodium azide (1.41 g, 21.6 mmol) was added, the mixture was heated at 50° C. for 30 min. After cooling to rt, the mixture was diluted with EtOAc (300 mL) and water (60 mL). The organic layer was further washed with water and brine, and then dried over Na2SO4. After filtration, the filtrate was concentrated and the residue was dissolved in THF (60 mL) and water (6 mL). Triphenylphosphine (3.64 g, 13.9 mmol) was added and the mixture was allowed to stir at rt overnight and then concentrated. The residue was dissolved in ether (400 mL) and 4M HCl in dioxane (6 mL) was added dropwise. The solid formed was washed with ether (5×30 mL) and dried to give 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt as a pale solid. 1H NMR (DMSO-d6, 200 MHz) δ 8.66 (brs, 2H), 8.24-8.10 (m, 2H), 8.06 (d, J=8.6 Hz, 1H), 7.62 (dd, J=8.4, 1.6 Hz, 1H), 4.34 (q, J=7.4 Hz, 2H), 4.13 (s, 2H), 1.32 (t, J=7.0 Hz, 3H). MS (EI): cal'd 236.1 (MH+), exp 236.1 (MH+).

reactant | 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | 10.7 mmol, 2.52 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C12H12O3S
reactant | triethylamine | 21.5 mmol, 3.00 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 16.0 mmol, 1.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 21.6 mmol, 1.41 g | [N-]=[N+]=[N-].[Na+]
reactant | Triphenylphosphine | 13.9 mmol, 3.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | water | 60 mL | O | H2O
product | 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt | Cl.C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CN | InChI=1S/C12H13NO2S.ClH/c1-2-15-12(14)11-6-9-4-3-8(7-13)5-10(9)16-11;/h3-6H,2,7,13H2,1H3;1H
